US06174884B1
6-(3,4-Methylenedioxy-benzyl)-1-(4-decyl)-3-methyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one
6 mg (0.021 mmol) of 5-amino-3-methyl-1-(4-decyl)-1H-pyrazole-4-carboxamide and 20 mg (0.103 mmol) of methyl 3,4-methylenedioxyphenylacetate are refluxed for 6 hours in 0.3 ml of a 0.5M ethanolic sodium ethoxide solution. After dichloromethane and saturated aqueous sodium hydrogen carbonate solution have been added, the phases are separated. Purification by chromatography gives 5.4 mg (59%) of a solid, Rf=0.60 (dichloromethane/methanol=15:1).

reactant | 5-amino-3-methyl-1-(4-decyl)-1H-pyrazole-4-carboxamide | 0.021 mmol, 6 mg | NC1=C(C(=NN1C(CCC)CCCCCC)C)C(=O)N | C15H28N4O
reactant | methyl 3,4-methylenedioxyphenylacetate | 0.103 mmol, 20 mg | C1OC=2C=C(C=CC2O1)CC(=O)OC | C10H10O4
reactant | sodium ethoxide | 0.5M | [O-]CC.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-(3,4-Methylenedioxy-benzyl)-1-(4-decyl)-3-methyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one | 5.4 mg, 59% | C1OC=2C=C(CC=3NC(C4=C(N3)N(N=C4C)C(CCC)CCCCCC)=O)C=CC2O1 | C24H32N4O3
